US06200978B1
tert-butyl di(2-propynyl)carbamate
A solution of di-tert-butyl dicarbonate (49.21 g) in dichloromethane (50 ml) was added dropwise to an ice-cold solution of dipropargylamine (20 g) and triethylamine (26 g) in dichloromethane (150 ml). The reaction mixture was allowed to warm up to room temperature and stirred overnight. The reaction mixture was washed three-times with water (200 ml), saturated brine solution, dried (MgSO4) and evaporated to dryness in vacuo to afford the title compound as a brown solid, 42.60 g. The compound was used without further purification.

reactant | di-tert-butyl dicarbonate | 49.21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dipropargylamine | 20 g | C(C#C)NCC#C | C6H7N
reactant | triethylamine | 26 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | tert-butyl di(2-propynyl)carbamate | C(C#C)N(C(OC(C)(C)C)=O)CC#C | C11H15NO2
